US06881733B1
3-ethyl-4-oxopiperidine hydrochloride
A mixture of 28.2 gm (98.8 mMol) methyl 1-tert-butoxycarbonyl-4-oxo-3-ethyl-3-piperidinecarboxylate and 6N hydrochloric acid was heated at reflux for about 16 hours. The reaction mixture was concentrated under reduced pressure and the residue dissolved in ethanol. This solution was concentrated under reduced pressure to azeotropically remove water. This procedure was repeated twice to provide 7.0 gm (55%) of the desired compound.

reactant | methyl 1-tert-butoxycarbonyl-4-oxo-3-ethyl-3-piperidinecarboxylate | 98.8 mMol, 28.2 gm | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)(C(=O)OC)CC | C14H23NO5
reactant | hydrochloric acid | 6N | Cl | ClH
product | 3-ethyl-4-oxopiperidine hydrochloride | 7.0 gm, 55% | Cl.C(C)C1CNCCC1=O | InChI=1S/C7H13NO.ClH/c1-2-6-5-8-4-3-7(6)9;/h6,8H,2-5H2,1H3;1H
